US08008307B2
Step a: tert-butyl rel-(2aR,7bR)-2-oxo-2,2a,3,7b-tetrahydro-1H-indeno[1,2-b]azete-1-carboxylate
To a mixed solution of rel-(2aR,7bR)-1,2a,3,7b-tetrahydro-2H-indeno[1,2-b]azet-2-one (1.20 g, 7.54 mmol) and N,N-dimethylaminopyridine (0.20 g, 2.00 mmol) in acetonitrile (24.0 mL) was added di-tert-butyldicarbonate (3.29 g, 15.1 mmol) at 0° C. under an atmosphere of Argon, and the mixture was stirred for 1 h at 23° C. The reaction mixture was added DCM (ca.200 mL) and then the organic layer was washed with saturated NaHCO3 solution and brine. After drying over MgSO4, the suspension was filtered and the filtrate was evaporated under vacuum. The residue was purified by flash chromatography (10 to 30% ethyl acetate/hexanes) to afford the title compound (1.85 g, 90%) as a light pink solid. 1H-NMR (400 MHz, CDCl3) δ: 7.58 (d, 1H, 1=7.5 Hz), 7.36-7.23 (m, 3H), 5.34 (d, 1H, 1=5.0 Hz), 3.98 (ddd, 1H, J1=10.5, 5.0, 2.4 Hz), 3.38 (dd, 1H, J=17.4, 1.2 Hz), 3.13 (dd, 1H, J=17.4, 10.5 Hz), 1.52 (s, 9H).

reactant | rel-(2aR,7bR)-1,2a,3,7b-tetrahydro-2H-indeno[1,2-b]azet-2-one | 7.54 mmol, 1.20 g | N1[C@@H]2[C@H](C1=O)CC1=CC=CC=C12 | C10H9NO
reactant | di-tert-butyldicarbonate | 15.1 mmol, 3.29 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 24.0 mL | C(C)#N | C2H3N
product | tert-butyl rel-(2aR,7bR)-2-oxo-2,2a,3,7b-tetrahydro-1H-indeno[1,2-b]azete-1-carboxylate | 1.85 g, 90% | O=C1[C@H]2[C@@H](N1C(=O)OC(C)(C)C)C1=CC=CC=C1C2 | C15H17NO3
